US04062869
3-Indolylglyoxylyl chloride (104 g. ) was stirred in diethyl ether (500 ml.) and treated with m-cresol (108 g.) followed by pyridine (79 g.). After stirring for 30 minutes the solid product was collected by filtration, washed with water then with acetonitrile and dried to give m-cresyl 3-indolylglyoxylate as a yellow powder, m.p. 194°-197°. Yield 119 g. (85.5%)

reactant | 3-Indolylglyoxylyl chloride | 104 g | N1C=C(C2=CC=CC=C12)C(C(=O)Cl)=O | C10H6ClNO2
reactant | m-cresol | 108 g | C1=C(C=CC=C1O)C | C7H8O
reactant | pyridine | 79 g | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | m-cresyl 3-indolylglyoxylate | N1C=C(C2=CC=CC=C12)C(C(=O)OC1=CC(=CC=C1)C)=O | C17H13NO3
